// characterization single-ended opamp 'op6' in SkyWater 130nm 1V8

simulator lang=spectre
global 0

include "./models/sky130.scs" section=tt

parameters vs=100m vi=0 vsup=1.8 vcm=0 vo=0 vid=0 vicm=0                    \
           a0=1 cl=5p fin=1k i0=3u rl=100M                                  \
           Lcm1=0.4 Lcm2=0.4 Lcs=0.4 Ld=0.4 Lc1=1.5 Lr1=1.0                 \
           Wcm1=3.0 Wcm2=3.0 Wcs=3.0 Wd=3.0 Wc1=6.8 Wr1=3.0                 \
           Mcm11=1 Mcm21=2   Mcs=22  Md=2   Mc1=1   Mr1=1                   \
           Mcm12=5 Mcm22=2                                                  \
           Mcm13=22                                                         \
           A=(Mcm13+Mcm12+Mcm13)*Wcm1*Lcm1+2*Md*Wd*Ld+                      \
             (Mcm21 + Mcm22)*Wcm2*Lcm2+Mcs*Wcs*Lcs+Mc1*Lc1*Wc1+Mr1*Wr1*Lr1

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// Biasing
VSUPP (VDD CM) vsource dc=vsup/2 type=dc
VSUPN (CM VSS) vsource dc=vsup/2 type=dc
IREF  (VDD B)  isource dc=i0     type=dc
VCM   (CM 0)   vsource dc=0      type=dc

//DUT
DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0 INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL  OUT)              switch position=1

IPRB0 (FBA FBB) iprobe
FBNET (FBA CM  OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid val0=-vs/2 val1=vs/2 \
                              period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine  ampl=a0 freq=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM)  vsource  dc=vo type=dc
L2 (OFI OF)  dcfeed   l=1u
R2 (OFL  CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

subckt op B INP INN O VDD VSS
    //biasing current mirror
    MNCM11 (B  B   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm11 w=Wcm1 l=Lcm1 
    MNCM12 (CM B   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm12 w=Wcm1 l=Lcm1 
    MNCM13 (O  B   VSS VSS) sky130_fd_pr__nfet_01v8 m=Mcm13 w=Wcm1 l=Lcm1 

    //diffpair
    MND11  (Y  INP CM  VSS) sky130_fd_pr__nfet_01v8 m=Md w=Wd l=Ld 
    MND12  (X  INN CM  VSS) sky130_fd_pr__nfet_01v8 m=Md w=Wd l=Ld 

    //load for diffpair
    MPCM21 (X  X   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm21 w=Wcm2 l=Lcm2 
    MPCM22 (Y  X   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcm22 w=Wcm2 l=Lcm2 

    //compensation network
    MPC1   (O  A   O   O)   sky130_fd_pr__pfet_01v8 m=Mc1 w=Wc1 l=Lc1 
    MR1    (A  VSS Y   VDD) sky130_fd_pr__pfet_01v8 m=Mr1 w=Wr1 l=Lr1 
    MPCS   (O  Y   VDD VDD) sky130_fd_pr__pfet_01v8 m=Mcs w=Wcs l=Lcs 
ends op

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12           \
                         temp=27 tnom=27 homotopy=all gmin=1e-12 rforce=1   \
                         save=selected dc_pivot_check=yes scale=1u

save DUT.M*.m*:gm  DUT.M*.m*:gds   DUT.M*.m*:id  DUT.M*.m*:gmoverid     \
     DUT.M*.m*:fug DUT.M*.m*:vdsat DUT.M*.m*:vgs DUT.M*.m*:vds          \
     DUT.M*.m*:vbs DUT.M*.m*:gmb   DUT.M*.m*:vth DUT.M*.m*:self_gain    \
     DUT.X DUT.Y   DUT.B DUT.CM    DUT:VDD VDD   DUT:VSS VSS            \
     DUT:O OUT     OUT_IDEAL       INN           INP

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=0.9 method=statistics nsigma=1 \
    variations=mismatch where=rawfile prevoppoint=yes title="dcmatch"

stb stb start=1 stop=100G probe=IPRB0 localgnd=0 dec=50 title="stb"
tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE \
    separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vsup*0.1 stop=vsup*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no
ac ac freq=1 param=vicm start=-vsup stop=vsup lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vsup/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vsup/2
dc4 dc title="dc4"
